US04400293
Analogously to Example 4(b), 1-[4-(trans-4-n-propylcyclohexyl)-phenyl]-2-(4-bromophenyl)-ethane is reacted with copper(I) cyanide in pyridine/N-methylpyrrolidone to give 1-[4-(trans-4-n-propylcyclohexyl)-phenyl]-2-(4-cyanophenyl)-ethane; m.p. 36°.

reactant | 1-[4-(trans-4-n-propylcyclohexyl)-phenyl]-2-(4-bromophenyl)-ethane | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CCC1=CC=C(C=C1)Br | C23H29Br
reactant | copper(I) cyanide | [Cu]C#N
solvent | pyridine N-methylpyrrolidone | N1=CC=CC=C1.CN1C(CCC1)=O
product | 1-[4-(trans-4-n-propylcyclohexyl)-phenyl]-2-(4-cyanophenyl)-ethane | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CCC1=CC=C(C=C1)C#N | C24H29N
